US04666504
1-(4-Bromophenyl)-4-carboxy-5-pyrazolecarboxamide.
A 3.5 g. portion of ethyl 1-(4-bromophenyl)-5-cyano-4-pyrazolecarboxylate was reacted with 2.15 g. of potassium hydroxide in 50 ml. of ethanol under reflux for 2 hours to obtain 2.45 g. of the desired product, m.p. 251°-252.5°. The elemental analysis was as follows.

reactant | ethyl 1-(4-bromophenyl)-5-cyano-4-pyrazolecarboxylate | BrC1=CC=C(C=C1)N1N=CC(=C1C#N)C(=O)OCC | C13H10BrN3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-Bromophenyl)-4-carboxy-5-pyrazolecarboxamide | BrC1=CC=C(C=C1)N1N=CC(=C1C(=O)N)C(=O)O | C11H8BrN3O3
